US08013008B2
tert-butyl (2S,3R)-3-hydroxy-2-methyl-3-vinylpyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (3.95 g), 1 mol/L vinylmagnesium bromide—THF solution (12.5 mL) and tert-butyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate (1.0 g), the title compound was obtained as colorless oil (yield: 0.648 g, yield: 57%).

reactant | cerium chloride | 3.95 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | vinylmagnesium bromide THF | 1 mol/L, 12.5 mL | C(=C)[Mg]Br.C1CCOC1
reactant | tert-butyl (2S)-2-methyl-3-oxopyrrolidine-1-carboxylate | 1.0 g | C[C@@H]1N(CCC1=O)C(=O)OC(C)(C)C | C10H17NO3
product | tert-butyl (2S,3R)-3-hydroxy-2-methyl-3-vinylpyrrolidine-1-carboxylate | O[C@@]1([C@@H](N(CC1)C(=O)OC(C)(C)C)C)C=C | C12H21NO3
